US07495018B2
5-(2-chloro-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole
A solution of 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]pyridine N-oxide (1.00 g, 3.37 mmol) in phosphorus oxychloride (6.5 mL) was stirred at 100° C. for 2 hours. The reaction solution was cooled, and poured into a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extracts were washed with brine, then, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:1) to obtain a title compound (0.90 g, yield 81%).

reactant | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]pyridine N-oxide | 3.37 mmol, 1.00 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC=[N+](C=C1)[O-] | C17H16N2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | phosphorus oxychloride | 6.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(2-chloro-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole | 0.90 g, yield 81% | ClC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C17H15ClN2S
